US06667316B1
A mixture of 2-[1-(3,4-dimethoxyphenyl)-3-oxobutyl]-4-aminoisoindoline-1,3-dione (1.02 g, 2.77 mmol) and triethylamine (1.40 g, 13.85 mmol) in methylene chloride (40 mL) was cooled to 5° C. Methanesulfonyl chloride (1.27 g, 11.08 mmol) was added at 5-8° C. and the resulting mixture was stirred at room temperature for 2 hours. The mixture was washed with sat. Sodium bicarbonate (20 mL), 1N hydrogen chloride (20 mL), water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (Silica gel, methylene chloride:ethyl acetate 9:1) to give 2-[1-(3,4-dimethoxyphenyl)-3-oxobutyl]-4-[bis(methylsulfonyl)amino]isoindoline-1,3-dione (1.18 g, 81%) as a white solid mp 194-196° C.; 1H NMR (DMSO-d6) δ8.02-7.93 (m, 3H), 6.99-6.90 (m, 3H), 5.65 (t, J=6.7 Hz, 1H), 3.75-3.65 (m, 1H), 3.71 (s, 6H), 3.56 (s, 6H), 3.53-3.46 (m, 1H), 2.11 (s, 3H); 13C NMR (DMSO-d6) δ205.79, 166.58, 165.78, 148.64, 148.32, 138.48, 135.86, 132.68, 131.50, 129.85, 129.15, 125.06, 119.35, 111.58, 110.91, 55.49, 55.39, 49.27, 44.52, 43.53, 43.49, 29.92; Anal. Calcd. for C22H24N2O9S2: C, 50.37; H, 4.61; N, 5.34, S, 12.23. Found: C, 50.43, H, 4.77; N, 5.16; S, 12.22.

reactant | 2-[1-(3,4-dimethoxyphenyl)-3-oxobutyl]-4-aminoisoindoline-1,3-dione | 2.77 mmol, 1.02 g | COC=1C=C(C=CC1OC)C(CC(C)=O)N1C(C2=CC=CC(=C2C1=O)N)=O | C20H20N2O5
reactant | triethylamine | 13.85 mmol, 1.40 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 11.08 mmol, 1.27 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(3,4-dimethoxyphenyl)-3-oxobutyl]-4-[bis(methylsulfonyl)amino]isoindoline-1,3-dione | 1.18 g, 81% | COC=1C=C(C=CC1OC)C(CC(C)=O)N1C(C2=CC=CC(=C2C1=O)N(S(=O)(=O)C)S(=O)(=O)C)=O | C22H24N2O9S2
